US06166219
N,N'-carbonyldiimidazole (14.45 g) was added to a solution of 10.00 g of 4-acetylamino-3-nitrobenzoic acid in 300 ml of N,N-dimethylformamide, and the mixture was stirred at room temperature for 1 hour. Subsequently, 14.03 g of benzenesulfonamide and 13.58 g of diazabicycloundecene were added thereto, and the mixture was stirred at 100° C. for 72 hours. The reaction mixture was separated with the addition of chloroform and water. The organic layer was then concentrated, and the resulting residue was purified through silica-gel column chromatography (eluent: a mixture of ethyl acetate and methanol at a ratio of 4:1) to give 12.67 g of N-benzenesulfonyl-4-acetylamino-3-nitrobenzamide.

reactant | 4-acetylamino-3-nitrobenzoic acid | 10.00 g | C(C)(=O)NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H8N2O5
reactant | benzenesulfonamide | 14.03 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | diazabicycloundecene | 13.58 g | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | N-benzenesulfonyl-4-acetylamino-3-nitrobenzamide | 12.67 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])=O | C15H13N3O6S
